US06255339B1
(R)-(+)-5-Hydroxymethyl-2 (5H)-furanone (1.94 g, 17.0 mmol) was dissolved in anhydrous pyridine (60 mol), triphenylmethyl chloride (14.3 g, 51.2 mmol) was added to the solution at room temperature, and the mixture was stirred for 6 hr. Ethanol was added to the reaction solution at 0° C., and the mixture was stirred for one hr. The reaction solution was concentrated under reduced pressure, and the concentrate was subjected to azeotropic distillation twice with toluene and purified by column chromatographic separation on silica gel (hexane:ethyl acetate=3:1 to 2:1) to give (R)-(+)-5-triphenylmethyloxymethyl-2 (5H)-furanone (5.47 g, 90%).

reactant | (R)-(+)-5-Hydroxymethyl-2 (5H)-furanone | 17.0 mmol, 1.94 g | OC[C@H]1C=CC(O1)=O | C5H6O3
reactant | pyridine | 60 mol | N1=CC=CC=C1 | C5H5N
reactant | triphenylmethyl chloride | 51.2 mmol, 14.3 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | Ethanol | C(C)O | C2H6O
product | (R)-(+)-5-triphenylmethyloxymethyl-2 (5H)-furanone | 5.47 g, 90% | C1(=CC=CC=C1)C(OC[C@H]1C=CC(O1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H20O3
